US05756532
(R)-(7-Chloro-6-nitro-3-(toluene-4-sulfonyloxymethyl)-2,3-dihydro-benzo(1,4)dioxin-5-yl)-acetic acid
To 3.0 g (7.3 mmole) of (R)-(7-chloro-3-(toluene-4-sulfonyloxymethyl)-2,3-dihydro-benzo(1,4)dioxin-5-yl)-acetic acid in 50 of dichloroethane in an ice/water bath was added a solution of 3.6 ml (85 mmole) of nitric acid (sp. gr. 1.49) in 50 ml of dichloroethane. The mixture was allowed to come to room temperature and stir overnight. Ice was added to quench the reaction and the mixture was diluted to 300 ml with methylene chloride, washed with water and with saturated brine and dried over sodium sulfate. Concentration in vacuum gave 2.8 g of the title compound as an off-white solid. 1H (DMSO-d6) broad singlet, 12.75 δ(1 H); doublet, 7.80 δ(2 H); doublet, 7.45 δ(2 H);.singlet, 7.15 δ(1 H); multiplet, 4.60 δ(1 H); multiplet, 4.37 δ(2 H); multiplet, 4.15 δ(2 H); singlet, 3.45 δ(2H); singlet, 2.40 δ(3 H).

reactant | (R)-(7-chloro-3-(toluene-4-sulfonyloxymethyl)-2,3-dihydro-benzo(1,4)dioxin-5-yl)-acetic acid | 7.3 mmole, 3.0 g | ClC=1C=C(C2=C(OC[C@@H](O2)COS(=O)(=O)C2=CC=C(C=C2)C)C1)CC(=O)O | C18H17ClO7S
reactant | nitric acid | 85 mmole, 3.6 ml | [N+](=O)(O)[O-] | HNO3
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (R)-(7-Chloro-6-nitro-3-(toluene-4-sulfonyloxymethyl)-2,3-dihydro-benzo(1,4)dioxin-5-yl)-acetic acid | 2.8 g | ClC=1C(=C(C2=C(OC[C@@H](O2)COS(=O)(=O)C2=CC=C(C=C2)C)C1)CC(=O)O)[N+](=O)[O-] | C18H16ClNO9S
